US08003722B2
Synthesis of Diisobutyl Phosphinic Acid
The concentration of acid was determined by 31P NMR. 10% Na2CO3 solution was prepared in an amount sufficient to neutralize monoisobutylphosphinic acid. The oily fraction in the wash tank was washed with Na2CO3 solution in several portions each time separating the bottom aqueous layer from the wash tank. When removal of sodium monoisobutylphosphinate was completed, as monitored by 13P NMR, the additional water wash was performed on the remaining diisobutylphosphinic acid. The remaining water and toluene were removed under vacuum.

reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | monoisobutylphosphinic acid | C(C(C)C)P(O)=O | C4H11O2P
product | Diisobutyl Phosphinic Acid | C(C(C)C)P(O)(=O)CC(C)C | C8H19O2P
